US08455475B2
tert-Butyl 8-(4-cyanophenyl)-2,8-diazaspiro[4.5]decane-2-carboxylate
Cesium carbonate (1.35 g, 4.16 mmol, 2.0 eq.) was added to a stirred solution of tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate (500 mg, 2.08 mmol, 1.0 eq.) and 4-chlorobenzonitrile (390 mg, 2.08 mmol, 1.0 eq.) in toluene (30 ml) and the reaction mixture was degassed with nitrogen for 15 min. BINAP (52 mg, 0.083 mmol, 0.04 eq.) and Pd(OAc)2 (10 mg, 0.0416 mmol, 0.02 eq.) were added and the resulting reaction mixture was heated at reflux for 16 h. The reaction mixture was filtered through celite and the filtrate was evaporated under reduced pressure to afford the crude product which was purified by column chromatography (silica gel; 15-20% EtOAdhexanes) to yield the pure product as an oil. Yield: 49% (350 mg, 1.026 mmol).

reactant | Cesium carbonate | 4.16 mmol, 1.35 g, 2.0 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate | 2.08 mmol, 500 mg, 1.0 eq. | C1N(CCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | 4-chlorobenzonitrile | 2.08 mmol, 390 mg, 1.0 eq. | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | BINAP | 0.083 mmol, 52 mg, 0.04 eq. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.0416 mmol, 10 mg, 0.02 eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-Butyl 8-(4-cyanophenyl)-2,8-diazaspiro[4.5]decane-2-carboxylate | Yield: 49% | C(#N)C1=CC=C(C=C1)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C20H27N3O2
